US04446028
Isopropenyl Phosphonic Acid/Hydroxypropylacrylate Copolymer (3:1 molar ratio)
Using the same polymerization apparatus as described in Example 1, 17.1 g (0.13 mole) of hydroxypropylacrylate and 49.8 g (0.41 mole) of isopropenylphosphonic acid in 202.5 g water (neutralized to pH 2.5) was heated to reflux with 6 g of ammonium persulfate. After 2 hours of reflux an additional 6 g of initiator was added followed by 2 hours of reflux. The final pH of the brown solution was 2.7. The 31PMR spectrum of the product had polymer absorptions at -30 to -33 ppm and -24 ppm.

reactant | hydroxypropylacrylate | 0.13 mole, 17.1 g | OCCCOC(C=C)=O | C6H10O3
reactant | isopropenylphosphonic acid | 0.41 mole, 49.8 g | C(=C)(C)P(O)(O)=O | C3H7O3P
reactant | ammonium persulfate | 6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 202.5 g, pH 2.5 | O | H2O
product | Isopropenyl Phosphonic Acid Hydroxypropylacrylate | C(=C)(C)P(O)(O)=O.OCCCOC(C=C)=O | InChI=1S/C6H10O3.C3H7O3P/c1-2-6(8)9-5-3-4-7;1-3(2)7(4,5)6/h2,7H,1,3-5H2;1H2,2H3,(H2,4,5,6)
